US06987114B1
1-(Anthraquinon-2-ylmethyl)-5-ethyl-6-(3,5-dimethyl-phenyl)thio-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and 2-chloromethyl anthraquinone were reacted by the same way with the example 1 to obtain the titled compound (175 mg, yield: 35.1%).

reactant | 5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O2S
reactant | 2-chloromethyl anthraquinone | ClCC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C15H9ClO2
product | 1-(Anthraquinon-2-ylmethyl)-5-ethyl-6-(3,5-dimethyl-phenyl)thio-2,4-pyrimidinedione | 175 mg, yield: 35.1% | C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)CN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C29H24N2O4S
